US07994185B2
Step A: 1,1-dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(2-fluoro-3-{[(2-propen-1-yloxy)carbonyl]amino}phenyl)-1,3-thiazol-2-yl]-4-methyl-1-piperidinecarboxylate
To a solution of 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate (0.738 g, 2.110 mmol) in N,N-dimethylacetamide (8 mL) was added NBS (0.376 g, 2.110 mmol), and the reaction mixture was stirred for 1.5 h. 1,1-Dimethylethyl 4-(aminocarbonothioyl)-4-methyl-1-piperidinecarboxylate (0.545 g, 2.110 mmol) was added and the mixture was heated to 80° C. for 30 min. The reaction mixture was cooled, quenched with water (20 mL), and extracted with EtOAc (3×). The extract was dried over Na2SO4, filtered and concentrated. The residue was purified using column chromatography (hexane/EtOAc, 0 to 100%) to obtain the title compound (670 mg). MS (ESI): 588.2 [M+1]+.

reactant | 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate | 2.110 mmol, 0.738 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NC(OCC=C)=O)F | C16H13ClFN3O3
reactant | NBS | 2.110 mmol, 0.376 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 1,1-Dimethylethyl 4-(aminocarbonothioyl)-4-methyl-1-piperidinecarboxylate | 2.110 mmol, 0.545 g | NC(=S)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C12H22N2O2S
solvent | N,N-dimethylacetamide | 8 mL | CN(C(C)=O)C | C4H9NO
product | 1,1-dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(2-fluoro-3-{[(2-propen-1-yloxy)carbonyl]amino}phenyl)-1,3-thiazol-2-yl]-4-methyl-1-piperidinecarboxylate | 670 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C1=C(C(=CC=C1)NC(=O)OCC=C)F | C28H31ClFN5O4S
